US04857527
A solution of 3-hydroxymethyl-4-(3-nitrophenyl)-6phenylpyridazine (0.86 g) in tetrahydrofuran (5 ml) was dropwise added to a solution of phosphorus tribromide (0.18 ml) in a mixture of tetrahydrofuran (10 ml) and benzene (5 ml) under ice cooling. After stirring for 4 hours at the same temperature, the reaction mixture was poured into ice-water (50 ml) adjusted to pH 9 with saturated aqueous potassium carbonate and extracted with ethyl acetate (50 ml). The separated organic layer was washed with saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo. The residue was subjected to a column chromatography on silica gel (50 g) and eluted with a mixture of chloroform and acetone (5:1 V/V). The fractions containing the desired compound were combined and concentrated under reduced pressure. The residue was recrystallized from diethyl ether to give 3-bromomethyl-4-(3-nitrophenyl)-6-phenylpyridazine (0.73 g).

reactant | 3-hydroxymethyl-4-(3-nitrophenyl)-6phenylpyridazine | 0.86 g | OCC=1N=NC(=CC1C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=CC=C1 | C17H13N3O3
reactant | phosphorus tribromide | 0.18 ml | P(Br)(Br)Br | Br3P
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | 3-bromomethyl-4-(3-nitrophenyl)-6-phenylpyridazine | 0.73 g | BrCC=1N=NC(=CC1C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=CC=C1 | C17H12BrN3O2
